US05273975
A solution of 1,2,3,4-tetrahydro-8-methoxy-N,N-dipropyl-3-quinolinamine (0.98 g) in hydrobromic acid (20 mL of 48%) was heated at 155° C. for 6 hours. The solution was cooled, evaporated, and partitioned between ethyl acetate and saturated sodium bicarbonate solution. The aqueous phase was re-extracted with ethyl acetate and the combined organic phases were evaporated to give 0.88 g of 1,2,3,4-tetrahydro-8-hydroxy-N,N-dipropyl-3-quinolinamine as an oil.

reactant | 1,2,3,4-tetrahydro-8-methoxy-N,N-dipropyl-3-quinolinamine | 0.98 g | COC=1C=CC=C2CC(CNC12)N(CCC)CCC | C16H26N2O
solvent | hydrobromic acid | 20 mL | Br | BrH
product | 1,2,3,4-tetrahydro-8-hydroxy-N,N-dipropyl-3-quinolinamine | 0.88 g | OC=1C=CC=C2CC(CNC12)N(CCC)CCC | C15H24N2O
